US08114991B2
A mixture of 2-methyl-1-indanone (10 g, 0.0684 mol) and hydroxylamine hydrochloride (9.5 g, 0.1368 mol) in ethanol was stirred at 60° C., and a solution of sodium acetate (16.8 g, 0.2052 mol) in water added. The resulting mixture was then heated at reflux for 90 minutes, then cooled and the solid filtered. The crude product was washed with water and filtered to give 2-methyl-indan-1-one oxime (9.9 g, yield 81%), mp. 82-91° C., in 90% purity.

reactant | 2-methyl-1-indanone | 0.0684 mol, 10 g | CC1C(C2=CC=CC=C2C1)=O | C10H10O
reactant | hydroxylamine hydrochloride | 0.1368 mol, 9.5 g | Cl.NO
reactant | sodium acetate | 0.2052 mol, 16.8 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-methyl-indan-1-one oxime | 9.9 g, yield 81% | CC1C(C2=CC=CC=C2C1)=NO | C10H11NO
